US09107411B2
6-Chloro-N5-(1-cyanocyclopropyl)-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide (0.20 g, 0.34 mmol), cyclopropylboronic acid (0.063 g, 0.69 mmol) and sodium carbonate (0.074 g, 0.69 mmol) were initially charged as a suspension in N,N-dimethylformamide (1 ml), and a hot solution of copper(II) acetate (0.064 g, 0.34 mmol) and 2,2′-bipyridyl (0.054 g, 0.34 mmol) was added. The reaction mixture was stirred at 70° C. over 16 h. After cooling, hydrochloric acid (10 ml, 1 mol/l) was added and the organic phase was removed. The aqueous phase was extracted with ethyl acetate (3×) and the combined organic phases were washed with saturated sodium chloride solution and dried over magnesium sulphate, and the solvent was removed under reduced pressure. The residue is purified by means of preparative HPLC (Kromasil100, C18 250×20; eluent: acetonitrile in water, gradient: 10-100%) to obtain 0.013 g (6% of theory) of 6-chloro-N5-(1-cyanocyclopropyl)-1-cyclopropyl-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide.

reactant | 6-Chloro-N5-(1-cyanocyclopropyl)-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide | 0.34 mmol, 0.20 g | ClC1=C(C=C2C=C(NC2=C1)C(=O)NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)C(=O)NC1(CC1)C#N | C23H15ClF6N4O2
reactant | cyclopropylboronic acid | 0.69 mmol, 0.063 g | C1(CC1)B(O)O | C3H7BO2
reactant | sodium carbonate | 0.69 mmol, 0.074 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,2′-bipyridyl | 0.34 mmol, 0.054 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | hydrochloric acid | 1 mol/l, 10 ml | Cl | ClH
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
catalyst | copper(II) acetate | 0.34 mmol, 0.064 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 6-chloro-N5-(1-cyanocyclopropyl)-1-cyclopropyl-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-indole-2,5-dicarboxamide | 0.013 g, 6% | ClC1=C(C=C2C=C(N(C2=C1)C1CC1)C(=O)NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)C(=O)NC1(CC1)C#N | C26H19ClF6N4O2
